US08536185B2
Preparation of 2-phenyl-5-(1H-tetrazol-5-yl)pyrimidine
A mixture consisting of 2-phenylpyrimidine-5-carbonitrile (200 mg, 1.10 mmol), sodium azide (80 mg, 1.2 mmol) and ammonium chloride (66 mg, 1.2 mmol) in DMF (3 mL) was stirred at 100° C. for 24 hours. The reaction mixture was allowed to cool to room temperature. Upon addition of 1N hydrochloric acid (3 mL), a white solid precipitated. The precipitate was isolated by filtration and recrystallized from ethanol to afford the title compound as a white solid (123 mg, 50% yield); melting point 237° C.; 1H-NMR (400 MHz; DMSO-d6) δ 9.51 (s, 2H), 8.51-8.53 (m, 2H), 7.61-7.65 (m, 3H); LC/MS (ESI+) m/z 225; H-PGDS FPBA IC50: 2.5 μM.

reactant | 2-phenylpyrimidine-5-carbonitrile | 1.10 mmol, 200 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C#N | C11H7N3
reactant | sodium azide | 1.2 mmol, 80 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.2 mmol, 66 mg | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-5-(1H-tetrazol-5-yl)pyrimidine | 123 mg, 50% yield | C1(=CC=CC=C1)C1=NC=C(C=N1)C1=NN=NN1 | C11H8N6
